US05574173
Washed sodium hydride (2.6 g, 64.6 mmol, 60 weight % in oil) two times with hexane under a nitrogen atmosphere. Added 50 mL of dry ether, and then added dibenzosuberol (13.6 g, 64.6 mmol) dissolved in 30 mL of dry ether followed by 2-chloro-N,N-dimethylacetamide (7.8 g, 64.6 mmol) dissolved in 20 mL of dry ether. Stirred at room temperature for 16 hours. Added water, and separated layers. Evaporated the organic solution, and triturated the residue with carbon tetrachloride and hexane. Filtered the white solid to give 13.79 g (72% yield) of 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl-oxy-N,N-dimethylacetamide.

reactant | sodium hydride | 64.6 mmol, 2.6 g | [H-].[Na+]
reactant | dibenzosuberol | 64.6 mmol, 13.6 g | C1CC2=CC=CC=C2C(C3=CC=CC=C31)O | C15H14O
reactant | 2-chloro-N,N-dimethylacetamide | 64.6 mmol, 7.8 g | ClCC(=O)N(C)C | C4H8ClNO
solvent | hexane | CCCCCC | C6H14
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl-oxy-N,N-dimethylacetamide | 13.79 g, 72% yield | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)OCC(=O)N(C)C | C19H21NO2
